US04983633
N-[4-[2-(Dimethylamino)ethoxy]benzyl]-4-sulfamoylbenzamide
To a cooled solution of 1.50 g of 4-[2-(dimethylamino)ethoxy]benzylamine and 0.87 g of triethylamine in 10 ml of chloroform was added 1.87 g of 4-sulfamoylbenzyl chloride, which was prepared from 1.71 g of 4-sulfamoylbenzoic acid with 16.3 g of thionyl chloride in the usual way, with stirring. The mixture was stirred at room temperature for 30 minutes and the solvent was evaporated. Hydrochloric acid (10%) was added to the residue and the aqueous solution was washed with ethyl acetate. The aqueous layer was made alkaline with potassium carbonate and was extracted with ethyl acetate. The extract was washed with water, dried, and evaporated. The residue was washed with ethyl acetate to give 1.19 g of pale yellow crystals, which were recrystallized from ethanol to give colorless crystals, m.p. 173.5°-174.5° C.

reactant | 4-[2-(dimethylamino)ethoxy]benzylamine | 1.50 g | CN(CCOC1=CC=C(CN)C=C1)C | C11H18N2O
reactant | 4-sulfamoylbenzyl chloride | 1.87 g | S(N)(=O)(=O)C1=CC=C(CCl)C=C1 | C7H8ClNO2S
reactant | 4-sulfamoylbenzoic acid | 1.71 g | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | thionyl chloride | 16.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.87 g | C(C)N(CC)CC | C6H15N
product | N-[4-[2-(Dimethylamino)ethoxy]benzyl]-4-sulfamoylbenzamide | 1.19 g | CN(CCOC1=CC=C(CNC(C2=CC=C(C=C2)S(N)(=O)=O)=O)C=C1)C | C18H23N3O4S
